US08236793B2
N-[4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-phenyl]-3-methoxy-benzamide hydrochloric acid salt (Compound G5)
Was prepared by Method G from 4-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-phenylamine and 3-methoxybenzoyl chloride. Mp. 260° C.

reactant | 4-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-phenylamine | N12CCN(C(CC1)CC2)C2=CC=C(C=C2)N | C13H19N3
reactant | 3-methoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
product | N-[4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-phenyl]-3-methoxy-benzamide hydrochloric acid salt | Cl.N12CCN(C(CC1)CC2)C2=CC=C(C=C2)NC(C2=CC(=CC=C2)OC)=O | InChI=1S/C21H25N3O2.ClH/c1-26-20-4-2-3-16(15-20)21(25)22-17-5-7-18(8-6-17)24-14-13-23-11-9-19(24)10-12-23;/h2-8,15,19H,9-14H2,1H3,(H,22,25);1H
